US05273868
A solution comprising 55 grams of ethyl 2-(1-methylcyclopropanecarbonyl)-3-oxobutanoate and 160 ml of ethanol was stirred at room temperature and 60 ml of a 30% aqueous ammonia solution was added dropwise to this solution over a period of 10 minutes. Subsequently, the mixture was stirred for 1 hour and extracted with 300 ml of ethyl acetate and dilute aqueous hydrochloric acid. After neutralization and washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was then removed and 43 grams of ethyl (1-methylcyclopropanecarbonyl)acetate was obtained as an oily material.

reactant | ethyl 2-(1-methylcyclopropanecarbonyl)-3-oxobutanoate | 55 grams | CC1(CC1)C(=O)C(C(=O)OCC)C(C)=O | C11H16O4
reactant | ammonia | N | H3N
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | ethyl (1-methylcyclopropanecarbonyl)acetate | 43 grams | CC1(CC1)C(=O)CC(=O)OCC | C9H14O3
